US07666879B2
B. 4-(3-Amino-5-trifluoromethyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester
Hydrogentate 4-(3-nitro-5-trifluoromethyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester (4.8 g, 11.9 mmol) in MeOH (120 mL) with 10% Pd on activated carbon (400 mg) at room temperature for 3 hours. Filter and concentrate into a white solid as the title compound (3.94 g, 10.55 mmol, 89%). MS (ES), m/z 372 (M−1). Use in the next step without purification.

reactant | 4-(3-nitro-5-trifluoromethyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 11.9 mmol, 4.8 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-])=O | C17H20F3N3O5
solvent | MeOH | 120 mL | CO | CH4O
catalyst | Pd on activated carbon | 400 mg | [Pd] | Pd
product | 4-(3-Amino-5-trifluoromethyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 10.55 mmol, 3.94 g, 89% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)N)=O | C17H22F3N3O3
